US06320051B1
d) 2-[1-(3,4-Dichlorobenzyl)-1,2,3,6-tetrahydropyridin-2-yl]ethylamine
To a solution of 2-[1-(3,4-dichlorobenzyl)-1,2,3,6-tetrahydropyridin-2-yl]ethylcarbamic acid tert-butyl ester (1.0 g, 2.9 mmol) dissolved in dichloromethane at 5° C. was added trifluoroacetic acid (10 mL). After stirring at room temperature for 2.5 h the solvent was evapaorated, partitioned between dichloromethane (50 mL) and saturated aqueous sodium bicarbonate solution (25 mL). The organic layer was separated, dried and evaporated to yield the title compound as a colourless gum. δH (CDCl3+D2O) 1.46-1.63 (1H, m), 1.71-1.95 (2H, m), 2.18-2.47 (1H, m), 2.68-3.07 (4H, m), 3.60 (2H, s), 5.30 (1H, s), 5.57 (1H, d, J=10.1 Hz), 5.74 (1H, d, J=10.2 Hz), 7.10-7.50 (3H, m); MS (ES+) 285 (100%) MH+.

reactant | 2-[1-(3,4-dichlorobenzyl)-1,2,3,6-tetrahydropyridin-2-yl]ethylcarbamic acid tert-butyl ester | 2.9 mmol, 1.0 g | C(C)(C)(C)OC(NCCC1N(CC=CC1)CC1=CC(=C(C=C1)Cl)Cl)=O | C19H26Cl2N2O2
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[1-(3,4-Dichlorobenzyl)-1,2,3,6-tetrahydropyridin-2-yl]ethylamine | ClC=1C=C(CN2C(CC=CC2)CCN)C=CC1Cl | C14H18Cl2N2
